US08802661B2
To a suspension of betulinic acid (12 g, 26.3 mmol) and potassium carbonate (7.26 g, 52.6 mmol) in DMF (150 mL) was added benzyl bromide (3.28 mL, 27.6 mmol). The mixture was heated to 60° C. for 3.5 h, and was cooled to rt. Solids started to precipitate upon cooling. The mixture was diluted with 200 mL of water and the solids that formed were collected by filtration to give (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (13.92 g, 25.5 mmol, 97% yield) as a white solid. 1H NMR (500 MHz, CHLOROFORM-d) δ ppm 7.39-7.28 (m, 5H), 5.16-5.06 (m, 2H), 4.71 (d, J=1.83 Hz, 1H), 4.59 (s, 1H), 3.17 (ddd, J=11.44, 5.65, 5.49 Hz, 1H), 3.01 (td, J=10.99, 4.88 Hz, 1H), 2.27 (ddd, J=12.36, 3.20, 3.05 Hz, 1H), 2.21-2.13 (m, 1H), 1.93-1.81 (m, 2H), 1.67 (s, 3H), 0.95 (s, 3H), 0.93 (s, 3H), 1.71-0.82 (m, 20H), 0.79 (s, 3H), 0.75 (s, 3H), 0.74 (s, 3H).

reactant | betulinic acid | 26.3 mmol, 12 g | CC(=C)[C@@H]1CC[C@]2([C@H]1[C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC2)C)C)(C)C)O)C)C(=O)O | C30H48O3
reactant | potassium carbonate | 52.6 mmol, 7.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 27.6 mmol, 3.28 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (1R,3aS,5aR,5bR,7aR,9S,11aR,11bR,13aR,13bR)-benzyl 9-hydroxy-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)icosahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 25.5 mmol, 13.92 g, 97% yield | O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C37H54O3
